US08044069B2
2-(2-oxo-3,3-diphenylpyrrolidin-1-yl)-N-(1-phenylcyclobutyl)acetamide
A solution of 1-phenylcyclobutanamine (0.030 g, 0.204 mmol), 2-(2-oxo-3,3-diphenylpyrrolidin-1-yl)acetic acid (0.055 g, 0.185 mmol) and N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (0.036 g, 0.185 mmol) in dichloromethane (0.5 mL) was stirred at room temperature. After stirring overnight, the reaction was loaded directly onto a SF15-12 silica gel column (Analogix®, Burlington, Wis.), and the title compound was eluted using a gradient of 5% to 100% ethyl acetate/hexanes over 20 minutes (flow=30 mL/minute). 1H NMR (300 MHz, CDCl3) δ ppm 7.31-7.39 (m, 7H), 7.17-7.31 (m, 8H), 6.42-6.44 (br s, 1H), 3.94 (s, 2H), 3.46 (t, J=6.5 Hz, 2H), 2.79 (t, J=6.5 Hz, 2H), 2.42-2.52 (m, 2H), 2.19-2.30 (m, 2H), 1.71-1.95 (m, 2H); MS (ESI−) m/z 423 (M−H)−.

reactant | 1-phenylcyclobutanamine | 0.204 mmol, 0.030 g | C1(=CC=CC=C1)C1(CCC1)N | C10H13N
reactant | 2-(2-oxo-3,3-diphenylpyrrolidin-1-yl)acetic acid | 0.185 mmol, 0.055 g | O=C1N(CCC1(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)O | C18H17NO3
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.185 mmol, 0.036 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 2-(2-oxo-3,3-diphenylpyrrolidin-1-yl)-N-(1-phenylcyclobutyl)acetamide | O=C1N(CCC1(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)NC1(CCC1)C1=CC=CC=C1 | C28H28N2O2
